US05196610
A solution of 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy)propan-2-ol (0.65 g) and imidazole (0.612 g) were dissolved in dry acetonitrile (30 cm3), and the solution cooled to ca. 0° C. Thionyl chloride (1.21 g) was added dropwise, with stirring. The reaction mixture was allowed to warm to the ambient temperature (ca. 22° C.) and was stirred for a further three hours. Analysis of the reaction mixture by thin layer chromatography and gas liquid chromatography at that time showed no starting tertiary alcohol to be present. The reaction mixture was quenched with water, and a small volume of saturated sodium chloride solution was added. The aqueous mixture was extracted four times with diethyl ether and, finally, once with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulphate and concentrated by evaporation of the solvent under reduced pressure to give an oil. The product was purified by column chromatography on a silica gel support, using n-hexane containing 6% by volume ethyl acetate as eluent, to give 1,1,1-trifluoro-2-chloro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy)propane (0.48 g) as a colourless oil.

reactant | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy)propan-2-ol | 0.65 g | FC(C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCC)(F)F | C24H23F3O4
reactant | imidazole | 0.612 g | N1C=NC=C1 | C3H4N2
reactant | Thionyl chloride | 1.21 g | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 30 cm3 | C(C)#N | C2H3N
product | 1,1,1-trifluoro-2-chloro-2-(4-ethoxyphenyl)-3-(3-phenoxybenzyloxy)propane | 0.48 g | FC(C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C1=CC=C(C=C1)OCC)Cl)(F)F | C24H22ClF3O3
